US07855292B2
E. (S)-E-3-(2-Phenyl-propylcarbamoyl)-acrylic acid
To a solution of maleic anhydride (765 mg, 7.8 mmol) in acetic acid (20 mL) at rt was added (S)-2-phenylpropylamine. The mixture was stirred overnight then was partially concentrated. Water (50 mL) was added causing precipitation of the product acid. The white solid was collected by suction filtration, washed with water, and dried to provide 1.44 g (79%) of the pure acid. 1H NMR (400 MHz, CDCl3): 7.38-7.32 (m, 2H), 7.29-7.24 (m, 1H), 7.24-7.20 (m, 2H), 6.68 (br m, 1H), 6.29 (d J=12.7, 1H), 6.18 (d, J=12.7, 1H), 3.78-3.69 (m, 1H), 3.47-3.38 (m, 1H), 3.11-3.00 (m, 1H), 1.33 (d, J=7.0, 3H).

reactant | maleic anhydride | 7.8 mmol, 765 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | (S)-2-phenylpropylamine | C1(=CC=CC=C1)[C@@H](CN)C | C9H13N
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | (S)-E-3-(2-Phenyl-propylcarbamoyl)-acrylic acid | 1.44 g, 79% | C1(=CC=CC=C1)[C@@H](CNC(=O)/C=C/C(=O)O)C | C13H15NO3
